US05948911
Following the procedure of Example 1, the reaction of benzylamine with 2,4-dichloro-6-trifluoromethyl-thieno-[2,3-d]-pyrimidine yields 2-chloro-6-trifluoromethyl-4-benzylamino-thieno-[2,3-d]-pyrimidine.

reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
reactant | 2,4-dichloro-6-trifluoromethyl-thieno-[2,3-d]-pyrimidine | ClC=1N=C(C2=C(N1)SC(=C2)C(F)(F)F)Cl | C7HCl2F3N2S
product | 2-chloro-6-trifluoromethyl-4-benzylamino-thieno-[2,3-d]-pyrimidine | ClC=1N=C(C2=C(N1)SC(=C2)C(F)(F)F)NCC2=CC=CC=C2 | C14H9ClF3N3S
